US07402680B2
1-Benzyl-3-thiophen-2-yl-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene
The title compound (28 mg) was prepared from 3-thiophen-2-yl-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester as described in Example 103, using thiophene-2-carbonyl chloride (5 mmol) in place of 4-chlorobenzoyl chloride, and benzyl chloride (0.3 mmol) in place of 2-chloromethyl-thiophene. MS (ESI): exact mass calculated for C18H19N3S, 309.13; found, m/z 310.1 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.27-7.01 (m, 8H), 5.28 (s, 2H), 3.26-3.24 (br m, 2H), 3.18-3.16 (br m, 2H), 3.11-3.09 (br m, 2H), 2.96-2.94 (br m, 2H).

reactant | 3-thiophen-2-yl-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC=2C(=NNC2CC1)C=1SC=CC1 | C16H21N3O2S
reactant | thiophene-2-carbonyl chloride | 5 mmol | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | benzyl chloride | 0.3 mmol | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 1-Benzyl-3-thiophen-2-yl-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene | 28 mg | C(C1=CC=CC=C1)N1N=C(C=2CCNCCC12)C=1SC=CC1 | C18H19N3S
